US08193199B2
A solution of (8-chloro-2-(2-(trifluoromethoxy)phenyl)quinolin-3-yl)methanol (0.5470 g, 1.546 mmol) in chloroform (5.155 mL, 1.546 mmol) was treated with thionyl chloride (0.5626 mL, 7.732 mmol) dropwise, and the reaction mixture was stirred at room temperature. After 2.5 h, the mixture was concentrated under reduced pressure and co-evaporated three times with CH2Cl2 to give 8-chloro-3-(chloromethyl)-2-(2-(trifluoromethoxy)phenyl)quinoline hydrochloride as a yellow syrup: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.75 (1H, s), 8.10 (1H, dd, J=8.2, 1.2 Hz), 8.03 (1H, dd, J=7.5, 1.3 Hz), 7.64-7.74 (3H, m), 7.53-7.63 (2H, m), 4.75 (2H, br. s.), 89676-3-1-1H-NMR; LC-MS (ESI) m/z 372.0 [M+H]+ (Exact Mass of neutral form: 371.009). The yellow syrup was carried on crude without purification for the next step.

reactant | (8-chloro-2-(2-(trifluoromethoxy)phenyl)quinolin-3-yl)methanol | 1.546 mmol, 0.5470 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)OC(F)(F)F)CO | C17H11ClF3NO2
reactant | chloroform | 1.546 mmol, 5.155 mL | C(Cl)(Cl)Cl | CHCl3
reactant | thionyl chloride | 7.732 mmol, 0.5626 mL | S(=O)(Cl)Cl | Cl2OS
product | 8-chloro-3-(chloromethyl)-2-(2-(trifluoromethoxy)phenyl)quinoline hydrochloride | Cl.ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)OC(F)(F)F)CCl | InChI=1S/C17H10Cl2F3NO.ClH/c18-9-11-8-10-4-3-6-13(19)16(10)23-15(11)12-5-1-2-7-14(12)24-17(20,21)22;/h1-8H,9H2;1H
